US04695312
(4) 4-Chloro-5-difluoromethoxy-2-fluorophenylhydrazine XIV-1
A mixture of 13.3 g of 4-chloro-2-fluoro-5-difluoromethoxyaniline XIII-1 and 106 ml of hydrochloric acid was stirred at 0° C. A solution of 4.76 g of sodium nitrite in 35.4 ml of water was dropwise added in 10 minutes to the mixture, which was stirred at 0° to 5° C. for an hour. A solution of 35.4 g of stannous chloride dihydrate in 35.4 ml of hydrochloric acid was dropwise added in 15 minutes to the mixture, which was stirred at 0° to 5° C. for 2 hours. The reaction mixture was basified with 10% aqueous sodium hydroxide and shaken with chloroform. The chloroform layer was dried and concentrated, and 12.7 g of the titled compound XIV-1 thus obtained was used for the subsequent reaction without purification.

reactant | 4-chloro-2-fluoro-5-difluoromethoxyaniline | 13.3 g | ClC1=CC(=C(N)C=C1OC(F)F)F | C7H5ClF3NO
reactant | sodium nitrite | 4.76 g | N(=O)[O-].[Na+]
reactant | sodium hydroxide | [OH-].[Na+]
reactant | chloroform | C(Cl)(Cl)Cl | CHCl3
solvent | water | 35.4 ml | O | H2O
solvent | hydrochloric acid | 35.4 ml | Cl | ClH
solvent | hydrochloric acid | 106 ml | Cl | ClH
product | 4-Chloro-5-difluoromethoxy-2-fluorophenylhydrazine | 12.7 g | ClC1=CC(=C(C=C1OC(F)F)NN)F | C7H6ClF3N2O
